US08754226B2
To a solution of tert-butyl 4-aminopiperidine-1-carboxylate (0.93 g, 4.65 mmol) in DCM (15 mL) was added dropwise 2M trimethylaluminum (2.8 mL, 5.7 mmol) in toluene. The resulting mixture was stirred for 15 minutes, and (S)-3-(6-bromopyridin-3-yloxy)dihydrofuran-2(3H)-one (1.0 g, 3.87 mmol) in DCM (10 mL) was added slowly over 5 minutes and the reaction stirred at ambient temperature for 2 hours. The reaction was slowly quenched by the addition of 5% tartaric acid (5 mL), saturated NaHCO3 (5 mL) and DCM (10 mL). The organic layer was separated, dried over MgSO4, filtered and concentrated in vacuo to provide (S)-tert-butyl 4-(2-(6-bromopyridin-3-yloxy)-4-hydroxybutanamido)piperidine-1-carboxylate. The crude material was taken on without a further purification.

reactant | tert-butyl 4-aminopiperidine-1-carboxylate | 4.65 mmol, 0.93 g | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | trimethylaluminum | 5.7 mmol, 2M, 2.8 mL | C[Al](C)C
reactant | (S)-3-(6-bromopyridin-3-yloxy)dihydrofuran-2(3H)-one | 3.87 mmol, 1.0 g | BrC1=CC=C(C=N1)O[C@@H]1C(OCC1)=O | C9H8BrNO3
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (S)-tert-butyl 4-(2-(6-bromopyridin-3-yloxy)-4-hydroxybutanamido)piperidine-1-carboxylate | BrC1=CC=C(C=N1)O[C@H](C(=O)NC1CCN(CC1)C(=O)OC(C)(C)C)CCO | C19H28BrN3O5
